US09290446B2
2) Preparation of bromomethyl phenyl sulfoxide (Compound XII)
Methyl phenyl sulfoxide (21.644 g, 154.4 mmol) was dissolved in anhydrous pyridine (27.4 mL, 2.2 eq) and dry acetonitrile (100 mL). The solution was cooled to −40° C. under an argon atmosphere. A solution of bromine (49.4 g, 2 eq) in dry acetonitrile (50 mL) was added slowly, maintaining the same temperature. The mixture was stirred at −40° C. for 1 h and then overnight at room temperature. The solvent was evaporated under vacuum and the residue was dissolved in dichloromethane. The organic layer was washed with Na2S2O3 20%, dried over anhydrous Na2SO4 and concentrated to dryness.

reactant | Methyl phenyl sulfoxide | 154.4 mmol, 21.644 g | C1(=CC=CC=C1)S(=O)C | C7H8OS
reactant | pyridine | 27.4 mL, 2.2 eq | N1=CC=CC=C1 | C5H5N
reactant | bromine | 49.4 g, 2 eq | BrBr | Br2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | bromomethyl phenyl sulfoxide | C1(=CC=CC=C1)S(=O)CBr | C7H7BrOS
